US06133271
Following the procedure of Example 97, the reaction of 2-methylimidazole with 2-chloro-6-ethyl-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-(2-methylimidazol-1-yl)-6-ethyl-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | 2-chloro-6-ethyl-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)CC)NCC2=CC1=C(C=C2)OCCO1 | C17H16ClN3O2S
product | 2-(2-methylimidazol-1-yl)-6-ethyl-4-(3,4-ethylendioxybenzylamino)-thieno-[2,3-d]-pyrimidine | CC=1N(C=CN1)C=1N=C(C2=C(N1)SC(=C2)CC)NCC2=CC1=C(C=C2)OCCO1 | C21H21N5O2S
